US07408084B2
To a tetrahydrofuran solution (30 mL) of 3.00 g (11.9 mmol) of the p-(benzoyloxy)propiophenone, a hexane solution (5 mL) of 2.07 g (1.1 equivalents) of bromine was added at 5° C. The temperature of the mixture was elevated to room temperature, followed by 1 hour of stirring. To the resulting mixture, 30 mL of a saturated sodium hydrogen carbonate solution and 40 mL of ethyl acetate were added to conduct extraction. The organic layer was washed with 30 mL of a saturated sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate, and subjected to distillation under a reduced pressure to remove the solvents. An yellow oily substance (5.54 g) was obtained as a result. This substance was crystallized from 5 mL of ethyl acetate and 30 mL of hexane. White crystals of 1-[4-(benzoyloxy)phenyl]-2-bromo-1-propanone were obtained as a result (3.147 g, isolation yield: 80%).

reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | p-(benzoyloxy)propiophenone | 11.9 mmol, 3.00 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C(CC)=O | C16H14O3
reactant | bromine | 2.07 g, 1.1 equivalents | BrBr | Br2
reactant | sodium hydrogen carbonate | 30 mL | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | hexane | 5 mL | CCCCCC | C6H14
product | 1-[4-(benzoyloxy)phenyl]-2-bromo-1-propanone | yield: 80% | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)C(C(C)Br)=O | C16H13BrO3
